US07271263B2
To 80 ml of toluene were added 8.0 g (40 m moles) of 1-(4,6-dimethoxypyrimidine-2-yl)-2-propanone and 7.9 g (44 m moles) of 4-chlorophenylhydrazine hydrochloride. Thereto was added 6.54 g (48 m moles) of zinc chloride. Refluxing was made for 2 hours with heating. The reaction mixture was allowed to cool. Then, ethyl acetate and water were added to dissolve the whole reaction mixture. The organic layer was washed with water, separated, and dried over Glauber's salt. The resulting organic layer was concentrated under reduced pressure using a rotary evaporator to obtain an orange solid. The solid was washed with isopropyl ether to obtain 10.2 g (33.7 m moles) of 5-chloro-3-(4,6-dimethoxypyrimidine-2-yl)-2-methylindole. Yield: 84% Melting point: 179 to 181° C.

reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1-(4,6-dimethoxypyrimidine-2-yl)-2-propanone | 8.0 g | COC1=NC(=NC(=C1)OC)CC(C)=O | C9H12N2O3
reactant | 4-chlorophenylhydrazine hydrochloride | 7.9 g | Cl.ClC1=CC=C(C=C1)NN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 6.54 g | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | 5-chloro-3-(4,6-dimethoxypyrimidine-2-yl)-2-methylindole | 10.2 g, Yield: 84% | ClC=1C=C2C(=C(NC2=CC1)C)C1=NC(=CC(=N1)OC)OC | C15H14ClN3O2
